US04625032
A mixture of 0.577 g of methyl (3S)-6-fluoro-1,2,3,4-tetrahydro-β-carboline-3-carboxylate hydrochloride, 0.32 g of sodium borohydride, 20 ml of ethanol and 10 ml of water is stirred at room temperature for 21 hours, and then further refluxed for 3 hours. After the reaction, insoluble materials are removed by filtration and washed with hot ethanol. The filtrate and washings are combined and concentrated. Water is added to the residue, and crystalline precipitates are collected by filtration and dried, whereby 286 mg of (3S)-3-hydroxymethyl-6-fluoro-1,2,3,4-tetrahydro-β-carboline are obtained as colorless needles. Yield: 65%

reactant | methyl (3S)-6-fluoro-1,2,3,4-tetrahydro-β-carboline-3-carboxylate hydrochloride | 0.577 g | Cl.FC=1C=C2C=3C[C@H](NCC3NC2=CC1)C(=O)OC
reactant | sodium borohydride | 0.32 g | [BH4-].[Na+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | (3S)-3-hydroxymethyl-6-fluoro-1,2,3,4-tetrahydro-β-carboline | 286 mg, Yield: 65% | OC[C@H]1NCC=2NC3=CC=C(C=C3C2C1)F | C12H13FN2O
